US08975254B2
b) 4-(1-(2-(1,3-dioxoisoindolin-2-yl)-2-methylpropyl)-1H-pyrazol-3-yl)-2-methylbenzonitrile
2-(1-hydroxy-2-methylpropan-2-yl)isoindoline-1,3-dione (1.10 g; 5 mmol) and 2-methyl-4-(1H-pyrazol-3-yl)benzonitrile (0.366 g; 2.0 mmol) were dissolved in 5 ml of THF under nitrogen atmosphere. Triphenylphosphine (1.05 g; 4.0 mmol) and DIAD (0.79 ml; 4.0 mmol) were added and the reaction stirred at RT over the weekend. Additional triphenylphosphine (0.525 g; 2.0 mmol) and DIAD (0.39 ml; 2.0 mmol) were added and the mixture was stirred at RT for 2 days and then refluxed for 2 hours. Solvent was evaporated, 50 ml of water was added and the mixture was washed with 3×50 ml of DCM, dried over Na2SO4, filtered and evaporated to dryness. The crude mixture was purified twice by CombiFlash (column: silica, eluent 0-100% EtOAc in heptane) to obtain 125 mg (16%) of the title product. 1H-NMR (400 MHz; CDCl3): δ 1.56 (s, 6H), 2.60 (s, 3H), 4.2-4.38 (m, 2H), 6.50 (d, 1H), 7.33-7.87 (m, 8H).

reactant | 2-(1-hydroxy-2-methylpropan-2-yl)isoindoline-1,3-dione | 5 mmol, 1.10 g | OCC(C)(C)N1C(C2=CC=CC=C2C1=O)=O | C12H13NO3
reactant | 2-methyl-4-(1H-pyrazol-3-yl)benzonitrile | 2.0 mmol, 0.366 g | CC1=C(C#N)C=CC(=C1)C1=NNC=C1 | C11H9N3
reactant | Triphenylphosphine | 4.0 mmol, 1.05 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 4.0 mmol, 0.79 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 2.0 mmol, 0.525 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 2.0 mmol, 0.39 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-(1-(2-(1,3-dioxoisoindolin-2-yl)-2-methylpropyl)-1H-pyrazol-3-yl)-2-methylbenzonitrile | 125 mg, 16% | O=C1N(C(C2=CC=CC=C12)=O)C(CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)C)(C)C | C23H20N4O2
